US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyridine-3-carboxamide
The title compound was prepared as described in Example 34(d), starting from 4,5,6,7-tetrahydropyrazolo[1,5-a]pyridine-3-carboxylic acid (0.127 g, 0.767 mmol) and (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (0.2 g, 0.767 mmol). The product was purified by flash-chromatography. Yield 55.5%. 1H-NMR (400 MHz; DMSO-d6): δ 1.12 (d, 3H), 1.66-1.75 (m, 2H), 1.85-1.95 (m, 2H), 2.87 (t, 2H), 4.02 (t, 2H), 4.22-4.23 (m, 2H), 4.32-4.42 (m, 1H), 6.94 (d, 1H), 7.72 (d, 1H), 7.80 (d, 1H), 7.83 (s, 1H), 7.91 (dd, 1H), 7.97 (d, 1H), 8.06 (d,

reactant | 4,5,6,7-tetrahydropyrazolo[1,5-a]pyridine-3-carboxylic acid | 0.767 mmol, 0.127 g | N1=CC(=C2N1CCCC2)C(=O)O | C8H10N2O2
reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 0.767 mmol, 0.2 g | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
product | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyridine-3-carboxamide | Yield 55.5% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1C=NN2C1CCCC2 | C21H21ClN6O
